US07465726B2
3-{4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carbonyl}-benzoic acid
3-{4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carbonyl}-benzoic acid methyl ester (0.624 mmol) was suspended in a mixture of MeOH (6.0 mL) and water (2.0 mL). 2 M NaOH solution (1.0 mmol) was then added to the above suspension and the reaction temperature increased to 65° C. The resulting suspension was stirred for a further period of 16 h. The mixture was allowed to reach r.t and diluted with EtOAc (30 mL) and washed with 2M NaOH (2×20 mL). The aqueous phase was then acidified by careful addition of conc. HCl solution until pH≈1. The resulting brown precipitate was then filtered and dried under vacuum affording the title compound. 1H NMR (DMSO, 400 MHz): δ=9.45(1H,s), 8.7(1H,s), 8.15(1H,d), 8.1(1H,d), 8.0(1H,s), 7.8(1H,d), 7.7 (1H, d), 7.6(1H, t), 6.9(1H, s), 6.6(1H, m), 6.35(1H, m), 4.35(1H, m), 4.1(1H, m), 3.9(1H, m), 2.6(1H, m). [MH+—CO2]=498.25.

reactant | 3-{4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carbonyl}-benzoic acid methyl ester | 0.624 mmol | COC(C1=CC(=CC=C1)C(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC3=C(N=CS3)C=C2)N1)=O | C27H22N6O3S
reactant | NaOH | 1.0 mmol, 2 M | [OH-].[Na+]
solvent | MeOH | 6.0 mL | CO | CH4O
solvent | water | 2.0 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3-{4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carbonyl}-benzoic acid | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)C(=O)C=1C=C(C(=O)O)C=CC1 | C26H20N6O3S
